US05981521
Step 1: 3.4-Dihydro-7-methoxy-3-methoxycarbonyl-1-methyl-isoquinoline
To a solution of N-acetyl-O-methyltyrosine methyl ester (10 g, 39.8 mmol) in anhydrous dichloromethane (350 mL) was added oxalyl chloride (44 mL, 2 M solution). The reaction mixture was stirred for 1 hr and then cooled to - 10° C. and to it anhydrous iron (III) trichloride (7.75 g, 47.8 mmol) was added portionwise. The stirring was continued overnight at room temperature and then the reaction mixture was treated with 2 M HC1 (100 mL) for 2 hrs. The organic phase was separated, washed with water and brine, dried (MgSO4) and concentrated in vacuo. Methanol (130 mnL) and concentrated sulfuric acid (6 niL) were added to the foamy residue and reaction was heated to reflux for 8 hrs. The reaction mixture was concentrated in vacuo, diluted with water (100 mL) and extracted with ethyl acetate (2×50 mL). The water layer was basified with ammonium hydroxide to pH >9 and extracted with dichloromethane (3×50 mL). The organic phase was washed with water, brine, dried (MgSO4) and concentrated in vacuo. The dark yellow product (8.7 g) was purified by a silica gel column chromatography eluting with (1: 1) ethyl acetate/ hexane to yield 5.61 g (60 %) of yellow product: 1H-NMR (CDCl3, δ): 2.45 (d, J=2 Hz, 3H), 2.82- 3.00 (m. 2H), 3.82 (s, 3H), 3.83 (s, 3H), 4.19 (qq. J=2. 6.8 Hz, I H), 6.93 (dd, J=2.7, 7.5 Hz, 1H), 7.05 (d, J=2.7 Hz, 1H), 7.14 (d, J=7.5 Hz- 1H): MS showed (M+H) +@ 234; Anal. Calcd for C13H15NO3 : C, 66.94; H, 6.48; N, 6.00; Found: C, 66.78; H, 6.36; N, 5.96.

reactant | N-acetyl-O-methyltyrosine methyl ester | 39.8 mmol, 10 g | COC([C@@H](NC(C)=O)CC1=CC=C(C=C1)OC)=O | C13H17NO4
reactant | oxalyl chloride | 2 M, 44 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | dichloromethane | 350 mL | ClCCl | CH2Cl2
catalyst | iron (III) trichloride | 47.8 mmol, 7.75 g | [Fe](Cl)(Cl)Cl
product | 3.4-Dihydro-7-methoxy-3-methoxycarbonyl-1-methyl-isoquinoline | 5.61 g, 60 % | COC1=CC=C2CC(N=C(C2=C1)C)C(=O)OC | C13H15NO3
